US07902367B2
Step 3c) Methyl 2-[3-[N-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methyl]carbamoyl]piperidin-1-yl]benzoate
N-[[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]methyl]piperidine-3-carboxamide hydrochloride (198 mg, 0.513 mmol) and methyl 2-fluorobenzoate (0.0653 mL, 0.513 mmol) were dissolved in dimethylsulfoxide (5 mL). To this solution, potassium carbonate (142 mg, 1.03 mmol) was added and the mixture was stirred for 6 hours at 160° C. Subsequently, the mixture was allowed to cool and water was added. The mixture was then extracted with ethyl acetate and the extract washed with brine, followed by drying over magnesium sulfate and evaporation of the solvent. Purification of the residue by silica gel column chromatography (hexane:ethyl acetate=5:1->1:1) gave 9.80 mg (4%) of the desired compound as a colorless oil.

reactant | N-[[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]methyl]piperidine-3-carboxamide hydrochloride | 0.513 mmol, 198 mg | Cl.ClC1=CC=C(C=C1)C=1SC(=C(N1)C)CNC(=O)C1CNCCC1
reactant | methyl 2-fluorobenzoate | 0.513 mmol, 0.0653 mL | FC1=C(C(=O)OC)C=CC=C1 | C8H7FO2
reactant | potassium carbonate | 1.03 mmol, 142 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
product | Methyl 2-[3-[N-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methyl]carbamoyl]piperidin-1-yl]benzoate | 9.80 mg, 4% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)CNC(=O)C1CN(CCC1)C1=C(C(=O)OC)C=CC=C1 | C25H26ClN3O3S
